Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ultracet
 
Attending: ___.
 
Chief Complaint:
Palpitations 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old male with possible CVA
in ___, homelessness, alcohol use disorder, opioid use
disorder, and atrial fibrillation/atrial flutter presents for
evaluation of palpitations.

The patient notes several weeks of palpitations for which he has
been seen multiple times in the ED and diagnosed with atrial
flutter. He has been offered elective ablation though has left
AMA prior to receiving the procedure (most recently admitted 
from
___. In the ED, he reported that he would accept
ablation at this time because the palpitations have become so
intrusive.

He denies current shortness of breath, chest pain,
lightheadedness, and dizziness. He complains of rib pain after 
he
slipped and fell on ice yesterday. He was seen in the ED and
diagnosed with a rib fracture.

ECGs show atrial flutter initially 2:1 with rate 141 that
improved to 3:1 with rate 79 after 10mg IV diltiazem. BPs have
remained stable. 

Upon arrival to the floor, confirms the above history. He 
reports
missing multiple doses of his meds recently after losing his
prescription bottles. He found them and resumed his meds today.
He denies chest pain, shortness of breath, lightheadedness, and
dizziness. He complains of right sided rib pain consistent with
his known rib fractures.

Of note, patient reports overdosing on intranasal heroin last
week. He was taken to ___

REVIEW OF SYSTEMS:  
A 10-point ROS was taken and is negative except otherwise stated
in the HPI. 
 

 
Past Medical History:
CVA in ___
Homelessness
Etoh use disorder
Opioid use disorder with recent overdose
Atrial fibrillation/flutter
Hypertension
 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
=============================
ADMISSION PHYSICAL EXAM 
=============================

VITALS:  T 97.7  HR 73  BP 159/82  RR 16  SpO2 98% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL. No
JVD.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs:  Diffuse inspiratory wheezes without rales or rhonchi 
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength in bilateral lower
extremities, ___ strength in LUE (patient refused to participate
in neuro exam with this arm, unable to objectively assess).

=============================
DISCHARGE PHYSICAL EXAM 
=============================

Vitals: 97.3 142/89 71 18 94 Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL. No
JVD.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs:  Diffuse inspiratory wheezes without rales or rhonchi 
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength in bilateral lower
extremities, ___ strength in LUE (patient refused to participate
in neuro exam with this arm, unable to objectively assess).

 
Pertinent Results:
================================
ADMISSION LABS 
================================

___ 08:53PM BLOOD WBC-9.4 RBC-4.39* Hgb-13.9 Hct-41.6 
MCV-95 MCH-31.7 MCHC-33.4 RDW-13.3 RDWSD-45.7 Plt ___
___ 08:53PM BLOOD ___ PTT-31.5 ___
___ 07:37PM BLOOD Glucose-102* UreaN-18 Creat-0.6 Na-141 
K-4.4 Cl-105 HCO3-19* AnGap-17
___ 08:53PM BLOOD cTropnT-<0.01

================================
DISCHARGE LABS 
================================

___ 05:44AM BLOOD WBC-6.6 RBC-4.25* Hgb-13.5* Hct-40.0 
MCV-94 MCH-31.8 MCHC-33.8 RDW-13.3 RDWSD-45.3 Plt ___
___ 05:44AM BLOOD ___ PTT-31.5 ___
___ 05:44AM BLOOD Glucose-121* UreaN-17 Creat-0.5 Na-144 
K-3.5 Cl-105 HCO3-27 AnGap-12
___ 05:44AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.8

================================
IMAGING/STUDIES/PROCEDURES
================================

CXR
1. Improved mild congestive heart failure. 
2. No evidence of trauma.  Although no acute or other chest wall 
lesion is 
seen, conventional chest radiographs are not sufficient for 
detection or 
characterization of most such abnormalities. If the 
demonstration of trauma or 
other soft tissue abnormality involving the chest wall is 
clinically 
warranted, the location of any referable focal findings  should 
be described 
in the imaging request, clearly marked and imaged with either 
bone detail 
radiographs or Chest CT scanning. 

 
Brief Hospital Course:
===============
BRIEF SUMMARY 
===============

___ year old male with PMHx atrial flutter, opioid use disorder, 
recent rib fractures and HTN who presents with palpitations. He 
was noted to be in typical atrial flutter on admission. He was 
give IV Diltiazem and then PO metoprolol and rates decreased to 
___. He was discharged with instructions to follow up with EP to 
plan future ablation. We decided not to perform an ablation in 
house given our concerns with his ability to reliably take 
anticoagulation as an outpatient in the month following an 
ablation. 

ACUTE ISSUES:
=============
# Typical atrial flutter
Has been seen multiple times in the past several weeks with 
palpitations and confirmed atrial flutter. Offered elective 
ablation though has left AMA multiple times before the procedure 
could occur. Etiology for rapid rate may be missed metoprolol 
doses recently. Substance abuse may also be contributing, though 
patient denies recent use (since overdose ___ weeks ago). He was 
restarted on home metoprolol 6.25 Q6h, apixaban 5mg BID. He was 
monitored on telemetry. He gave us his cell phone number as he 
was walking out and requested that he be called with a clinic 
appointment. 

# Opioid Use Disorder
Including alcohol and intranasal heroin with recent overdose for 
which he was hospitalized at ___. Patient denies 
alcohol use since ___. Social work was consulted. The 
patient was offered to speak with addiction psychiatry to 
discuss addiction treatments including initiation of methadone. 
He was interested but decided to leave. He was encouraged to 
follow up with his PCP to discuss initiation of methadone as he 
appeared interested. He was prescribed naloxone on discharge. We 
offered to relay this concern to his PCP but he did not want us 
to discuss the matter with him. 

# Hypertension
Discharged during last hospitalization on 10mg lisinopril though 
left before dose was uptitrated and control was achieved. 
Remained hypertensive in ED and upon arrival to the floor. His 
Lisinopril was increased to 20 mg daily which was continued on 
discharge.

# Rib fractures
Sustained recently after falling on the ice. Patient denies 
syncopal episode. Diagnosed with rib fractures in ___ ED.

# Homelessness
Reported to ED providers that he felt unsafe at his current 
shelter (___). Confirms to me that he no longer wants to 
stay at that shelter. Social work was consulted but the patient 
decided to leave prior to being seen.

TRANSITIONAL ISSUES
===================
[]Will need follow up with Dr. ___ to discuss EP ablation 
given persistent atrial flutter
[]Lisinopril uptitrated to 20 mg daily given persistently 
elevated BPs
[]Although he declined addiction psychiatry consult while 
inpatient, the patient was pre-comtemplative when discussed 
addiction treatment, would definitely benefit from discussing 
this further as an outpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Apixaban 5 mg PO BID 

 
Discharge Medications:
1.  Naloxone Nasal Spray 4 mg IH ONCE MR1 Duration: 1 Dose 
RX *naloxone [Narcan] 4 mg/actuation 1 spray once may repeat 
once Disp #*1 Spray Refills:*0 
2.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  Apixaban 5 mg PO BID  
4.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Atrial flutter
Opioid Use Disorder

SECONDARY DIAGNOSIS
Rib fractures
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having 
palpitations

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- Your heart was found to be in an abnormal rhythm
- We controlled it with medications
- We discussed having the addiction doctors ___ and ___ 
you on methadone but you wanted to leave
- We discharged you with instructions on following up with the 
rhythm doctors and encouraged ___ to talk to your PCP about 
starting methadone.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___